US05593984
Preparation of 6-hydroxymethyl-1-methylpyrrolo[1,2-a]pyrazine
3 g (22.7 mmol) of 1-methylpyrrolo[1,2-a]pyrazine prepared in Preparation Example 2 was dissolved in water (15 ml)/concentrated hydrochloric acid (35 ml) mixture while cooling with ice-water. The resulting solution was heated to 70° C.; and 60 ml of formalin was added dropwise thereto over 40 minutes. The resulting solution was stirred at 75° C. for 30 minutes, cooled to 0° C. and then neutralized to pH8.0 with sodium hydroxide and sodium bicarbonate. The reaction mixture was extracted with ethyl acetate (100 ml×3), dried over MgSO4 and then concentrated. The residue was chromatographed over silica gel to obtain 1.8 g of title compound (yield: 48.9%).

reactant | 1-methylpyrrolo[1,2-a]pyrazine | 22.7 mmol, 3 g | CC=1C=2N(C=CN1)C=CC2 | C8H8N2
reactant | formalin | 60 ml | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 6-hydroxymethyl-1-methylpyrrolo[1,2-a]pyrazine | 1.8 g, yield: 48.9% | OCC1=CC=C2N1C=CN=C2C | C9H10N2O
